* source LED MULTIPLEXER
Q_Q-C1         N04822 N00506 0 Q2N3904
Q_Q-C2         N04818 N00499 0 Q2N3904
Q_Q-C3         N04814 N00492 0 Q2N3904
R_R-C1         C1 N00506  {B_OHM} TC=0,0 
R_R-C2         C2 N00499  {B_OHM} TC=0,0 
R_R-C3         C3 N00492  {B_OHM} TC=0,0 
D_LED-R3C3         N05419 N04814 LW_541C-TYP 
D_LED-R3C2         N05419 N04818 LW_541C-TYP 
D_LED-R3C1         N05419 N04822 LW_541C-TYP 
D_LED-R2C2         N05421 N04818 LW_541C-TYP 
D_LED-R2C3         N05421 N04814 LW_541C-TYP 
D_LED-R2C1         N05421 N04822 LW_541C-TYP 
D_LED-R1C1         N05542 N04822 LW_541C-TYP 
D_LED-R1C2         N05542 N04818 LW_541C-TYP 
D_LED-R1C3         N05542 N04814 LW_541C-TYP 
R_R-R1         N05542 R1  {CL_OHM} TC=0,0 
R_R-R2         N05421 R2  {CL_OHM} TC=0,0 
R_R-R3         N05419 R3  {CL_OHM} TC=0,0 
V_Pin-R5         R1 0 {PINS}
V_Pin-R6         R2 0 0
V_Pin-R7         R3 0 0
V_Pin-R9         C2 0 0
V_Pin-R8         C1 0 0
V_Pin-R10         C3 0 {PINS}
.PARAM  cl_ohm=47 pins=5vdc b_ohm=2.2k
